US04983608
5-Cyano-N-(1H-indol-1-yl)-4-pyrimidinamine
To 100 ml absolute ethanol, was added 5.0 g of 1H-indol-1-amine, 5.0 g of 4-chloro-5-cyanopyrimidine and 5 ml of triethylamine. After stirring at ambient temperature for 20 hours, the mixture was poured into 400 ml water, stirred for five minutes, then extracted with ethyl acetate. The organic layer was washed with water, then dried (saturated NaCl, anhydrous MgSO4).

reactant | ethanol | 100 ml | C(C)O | C2H6O
reactant | 1H-indol-1-amine | 5.0 g | N1(C=CC2=CC=CC=C12)N | C8H8N2
reactant | 4-chloro-5-cyanopyrimidine | 5.0 g | ClC1=NC=NC=C1C#N | C5H2ClN3
reactant | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
solvent | water | 400 ml | O | H2O
product | 5-Cyano-N-(1H-indol-1-yl)-4-pyrimidinamine | C(#N)C=1C(=NC=NC1)NN1C=CC2=CC=CC=C12 | C13H9N5
